US05059597
b) Ethyl N-(but-2-enyl)-N-(2-oxoethyl)-carbamate
90 g (0.39 mol) of ethyl N-(but-2-enyl)-N-(2,2-dimethoxyethyl)-carbamate are heated under reflux with 200 ml of formic acid for one hour. The mixture is poured onto 500 g of ice and extracted with methylene chloride, the organic phases are washed with sodium bicarbonate solution, dried over magnesium sulphate and concentrated and the residue is distilled.

reactant | ethyl N-(but-2-enyl)-N-(2,2-dimethoxyethyl)-carbamate | 0.39 mol, 90 g | C(C=CC)N(C(OCC)=O)CC(OC)OC | C11H21NO4
solvent | formic acid | 200 ml | C(=O)O | CH2O2
product | Ethyl N-(but-2-enyl)-N-(2-oxoethyl)-carbamate | C(C=CC)N(C(OCC)=O)CC=O | C9H15NO3
